US07390923B2
a) 2-Methyl-N-(3-methyl-4-nitrophenyl)acrylamide
3-Methyl-4-nitroaniline (2.0 g, 13 mmol) in N,N-dimethylacetamide (DMAC) (6 ml) was added dropwise to a cooled solution of methacryloyl chloride (2.0 ml, 20.7 mmol) in a nitrogen atmosphere while the temperature of the reaction mixture was maintained between 0-5° C. The solution was allowed to warm to room temperature and the mixture was stirred over night. The mixture was poured into water (70 ml) and extracted with ethyl acetate (4×40 ml). The organic phase was washed with saturated Na2CO3 (3×20 ml) and water (1×50 ml), dried over Na2SO4 and evaporated. The yield of the crude product was 4.17 g (contains DMA, theoretical yield 2.9 g), and it was used without further purifications. 1H NMR (DMSO-d6): 1.97 (3H, s), 2.55 (3H, s), 5.62 (1H, m), 5.96 (1H, m), 7.80 (2H, m), 8.05 (1H, m), 10.22 (1H, s).

reactant | 3-Methyl-4-nitroaniline | 13 mmol, 2.0 g | CC=1C=C(N)C=CC1[N+](=O)[O-] | C7H8N2O2
reactant | methacryloyl chloride | 20.7 mmol, 2.0 ml | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | water | 70 ml | O | H2O
solvent | N,N-dimethylacetamide | 6 ml | CN(C(C)=O)C | C4H9NO
product | 2-Methyl-N-(3-methyl-4-nitrophenyl)acrylamide | CC(C(=O)NC1=CC(=C(C=C1)[N+](=O)[O-])C)=C | C11H12N2O3
